US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 2-fluoro-benzylamide
4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethyl)anilino]-N-(2-fluorobenzyl)-1-piperidinecarboxamide (0.21 g, 0.27 mmol) was reacted according to Procedure H (eluant: 5:1 chloroform-methanol containing 1% ammonium hydroxide) to give the title compound (0.085 g, 0.15 mmol)

reactant | 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethyl)anilino]-N-(2-fluorobenzyl)-1-piperidinecarboxamide | 0.27 mmol, 0.21 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCC3=C(C=CC=C3)F)C=C2)O)C=C1 | C46H55FN4O4Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 2-fluoro-benzylamide | 0.15 mmol, 0.085 g | FC1=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=CC=C1 | C30H37FN4O4
